US07626021B2
5-Bromo-3-iodo-1H-pyrazolo[3,4-b]pyridine (4 g, 12.4 mmol) in DMF (50 ml) under nitrogen was stirred at 40° C. for 10 minutes. Sodium hydride (0.9 g, 37 mmol) was added to the DMF solution and the resulting mixture was allowed to stir at 40° C. for 1 hour. Then 2,2-dimethyl-propionic acid chloromethyl ester (chloromethyl pivalate) was added dropwise to the mixture. The reaction was stirred for another 2 hours. The reaction was quenched with saturated NH4Cl (20 ml) and worked up with ethyl acetate, brine, dried with Na2SO4, concentrated to dryness. Silica gel chromatography of the crude using a gradient of ethyl acetate and hexane afforded 2,2-dimethyl-propionic acid 5-bromo-3-iodo-pyrazolo[3,4-b]pyridin-1-ylmethyl ester (5 g, 92% yield). 1H NMR (500 MHz, DMSO-d6) δ 1.07 (s, 9H), 6.37 (s, 2H), 8.30 (s, 1H), 8.77 (s, 1H).

reactant | 5-Bromo-3-iodo-1H-pyrazolo[3,4-b]pyridine | 12.4 mmol, 4 g | BrC=1C=C2C(=NC1)NN=C2I | C6H3BrIN3
reactant | Sodium hydride | 37 mmol, 0.9 g | [H-].[Na+]
reactant | 2,2-dimethyl-propionic acid chloromethyl ester (chloromethyl pivalate) | ClCCC(C(=O)O)(C)C.ClCOC(C(C)(C)C)=O | 2C6H11ClO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2,2-dimethyl-propionic acid 5-bromo-3-iodo-pyrazolo[3,4-b]pyridin-1-ylmethyl ester | 5 g, 92% yield | BrC=1C=C2C(=NC1)N(N=C2I)COC(C(C)(C)C)=O | C12H13BrIN3O2
